US04200628
To a solution of 5.2 g of crude 1,4-dibenzyl-2-formylpiperazine in a mixture of 30 ml of tetrahydrofuran and 10 ml of water are added 2.2 g (33.8 mmoles) of potassium cyanide and 3.4 ml of concentrated hydrochloric acid under ice-cooling, and the mixture is stirred for 30 minutes, mixed with water and extracted with chloroform. The extract is washed with water, dried over magnesium sulfate and evaporated under reduced pressure to yield 5.70 g of crude oily 2-hydroxy-2-(1,4-dibenzylpiperazin-2-yl)acetonitrile.

reactant | 1,4-dibenzyl-2-formylpiperazine | 5.2 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=O | C19H22N2O
reactant | potassium cyanide | 33.8 mmoles, 2.2 g | [C-]#N.[K+]
reactant | hydrochloric acid | 3.4 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-hydroxy-2-(1,4-dibenzylpiperazin-2-yl)acetonitrile | 5.70 g | OC(C#N)C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H23N3O
